US04282242
1-Methyl-5-benzoylpyrrole-3-carboxylate is dissolved by warming in acetone. An equivalent of sodium methoxide is added with stirring. Sodium 1-methyl-5-benzoylpyrrole-3-carboxylate is isolated by evaporation to dryness or by precipitation resulting from addition of a non-solvent (ether or pentane).

reactant | 1-Methyl-5-benzoylpyrrole-3-carboxylate | CN1C=C(C=C1C(C1=CC=CC=C1)=O)C(=O)[O-]
reactant | sodium methoxide | C[O-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | Sodium 1-methyl-5-benzoylpyrrole-3-carboxylate | CN1C=C(C=C1C(C1=CC=CC=C1)=O)C(=O)[O-].[Na+] | InChI=1S/C13H11NO3.Na/c1-14-8-10(13(16)17)7-11(14)12(15)9-5-3-2-4-6-9;/h2-8H,1H3,(H,16,17);/q;+1/p-1
